US06924290B2
4-[(2,6-difluoro-4-nitrophenyl)sulfanyl]pyridine
is synthesized analogously to C2 from 4-mercaptopyridine and 1,2,3-trifluoro-5-nitrobenzene.

reactant | 4-mercaptopyridine | SC1=CC=NC=C1 | C5H5NS
reactant | 1,2,3-trifluoro-5-nitrobenzene | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)F | C6H2F3NO2
product | 4-[(2,6-difluoro-4-nitrophenyl)sulfanyl]pyridine | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)SC1=CC=NC=C1 | C11H6F2N2O2S
